US06479487B1
2-Chloro-6-[(3,5-dimethoxybenzyl)amino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 3,5-dimethoxybenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 3,5-dimethoxybenzylamine | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(3,5-dimethoxybenzyl)amino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC(=CC(=C1)OC)OC | C19H22ClN5O2
